US07307076B2
f) 7-benzyloxy-5-oxiranyl-1H-quinolin-2-one
6.0 g (18.3 mmol) 7-benzyloxy-5-(2-chloro-acetyl)-1H-quinolin-2-one are placed in 150 mL tetrahydrofuran and at 0 to 5° C. combined with 434 mg (819.9 mmol) lithium borohydride. The mixture is stirred for 30 minutes, then 43 mL of a 2.5 molar sodium hydroxide solution are added and the mixture is stirred for a further 4 hours with heating to ambient temperature. The mixture is combined with sodium chloride solution, filtered and extracted repeatedly with ethyl acetate/tetrahydrofuran (1:1). The solid filtered off and the organic phases are combined and freed from the solvent. The residue is suspended in methanol, suction filtered and dried. Yield 4.8 g (89%); mass spectroscopy: [M+H]+=294.

reactant | 7-benzyloxy-5-(2-chloro-acetyl)-1H-quinolin-2-one | 18.3 mmol, 6.0 g | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C(CCl)=O | C18H14ClNO3
reactant | lithium borohydride | 819.9 mmol, 434 mg | [BH4-].[Li+]
reactant | sodium hydroxide | 2.5 molar | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 7-benzyloxy-5-oxiranyl-1H-quinolin-2-one | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C1OC1 | C18H15NO3
